US05665329
B. Preparation of 2-[(3-Chloro-3-methyl-2-nitrosobutoxy)methyl]-5-nitrofuran
Concentrated HCl (2.5 mL) was added to a cooled (0°-5° C.) solution of isoamyl nitrite (14.0 g, 0.12 mol) and 2-[[(3-methyl-2-butenyl)oxy]methyl]-5-nitrofuran (4.0 g, 0.06 mol). The temperature was maintained below 5° C. during the addition and the reaction mixture was stirred at 5° C. for an additional 30 min. The product was filtered and washed with a cold (-20° C.) 1:1 mixture of ethanol and ether. The solid was further washed with ether to afford a light yellow solid. Yield 2.6 g (52%). mp 134°-135° C.

reactant | HCl | 2.5 mL | Cl | ClH
reactant | isoamyl nitrite | 0.12 mol, 14.0 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 2-[[(3-methyl-2-butenyl)oxy]methyl]-5-nitrofuran | 0.06 mol, 4.0 g | CC(=CCOCC=1OC(=CC1)[N+](=O)[O-])C | C10H13NO4
product | 2-[(3-Chloro-3-methyl-2-nitrosobutoxy)methyl]-5-nitrofuran | ClC(C(COCC=1OC(=CC1)[N+](=O)[O-])N=O)(C)C | C10H13ClN2O5
